US07666659B2
Process for Producing ethyl 2-formyl-3-phenylpropionate
To a suspension solution containing 4.4 g of 60% NaH in 200 ml of THF, 17.8 g of ethyl 3-phenylpropionate and 8.2 g of ethyl formate were added dropwise under ice cool for one hour. Thereafter, the mixture was stirred at room temperature for 15 hours. Furthermore, 14 g of 60 % NaH and 25.9 g of ethyl formate were divided into three parts and each part was added separately. Afterwards, the solution mixture was stirred at room temperature for 15 hours. After a 10% citric acid solution was added to the resultant reaction solution, the reaction solution was extracted with ethyl acetate and the extract was concentrated under reduced pressure to obtain 32.4 g of a brown oily concentrate. The concentrate thus obtained was purified by silica gel column chromatography to obtain 17.9 g of the titled compound as a transparent oily substance.

reactant | NaH | 4.4 g | [H-].[Na+]
reactant | ethyl 3-phenylpropionate | 17.8 g | C1(=CC=CC=C1)CCC(=O)OCC | C11H14O2
reactant | ethyl formate | 8.2 g | C(=O)OCC | C3H6O2
reactant | NaH | 14 g | [H-].[Na+]
reactant | ethyl formate | 25.9 g | C(=O)OCC | C3H6O2
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | ethyl 2-formyl-3-phenylpropionate | 17.9 g | C(=O)C(C(=O)OCC)CC1=CC=CC=C1 | C12H14O3
